US05296360
A 1 ml quantity of 0.4% ganglioside GTlb solution, 1 ml of 40 mM acetate buffer (pH 4.0) and 1 ml of distilled water were mixed together, and to the mixture was added 1 ml of aqueous solution of Isozyme S (5 U/ml). The mixture was allowed to react at 37° C. for 1 hour, and 1/10 part by volume of chloroform was added thereto to stop the enzyme reaction. Ganglioside GMl was extracted from the reaction solution with use of a mixture of chloroform and methanol (2:1) and then lyophilized, giving 2.4 mg of ganglioside GMl as a white powder.

reactant | ganglioside GTlb | CCCCCCCCCCCCCCCCCC(=O)NCC(C(/C=C/CCCCCCCCCCCCC)O)O[C@H]1[C@@H]([C@H]([C@@H]([C@H](O1)CO)O[C@@H]2[C@H]([C@@H]([C@@H]([C@@H](O2)CO)O[C@@H]3[C@H]([C@@H]([C@@H]([C@@H](O3)CO)O)O[C@@H]4[C@H]([C@@H]([C@@H]([C@@H](O4)CO)O)O[C@]5(C[C@@H]([C@H]([C@@H](O5)C(C(O)O[C@]6(C[C@@H]([C@H]([C@@H](O6)C(C(CO)O)O)N)O)C(=O)O)O)N)O)C(=O)O)O)NC(=O)C)O[C@]7(C[C@@H]([C@H]([C@@H](O7)C(C(CO)O)O)N)O)C(=O)O)O)O)O | C88H157N5O44
reactant | acetate | 40 mM, 1 ml, pH 4.0 | C(C)(=O)[O-]
reactant | water | 1 ml | O | H2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | ganglioside GMl | 2.4 mg | CCCCCCCCCCCCCCCCCC(=O)N[C@@H](CO[C@H]1[C@@H]([C@H]([C@@H]([C@H](O1)CO)O[C@H]2[C@@H]([C@H]([C@H]([C@H](O2)CO)O[C@H]3[C@@H]([C@H]([C@H]([C@H](O3)CO)O)O[C@H]4[C@@H]([C@H]([C@H]([C@H](O4)CO)O)O)O)NC(=O)C)O[C@@]5(C[C@@H]([C@H]([C@@H](O5)[C@@H]([C@@H](CO)O)O)NC(=O)C)O)C(=O)O)O)O)O)[C@@H](/C=C/CCCCCCCCCCCCC)O | C73H131N3O31
